US08604034B2
8-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (120 mg, 0.33 mmol), Pd(PPh3)2Cl2 (23 mg, 0.033 mmol) and copper(I) iodide (15 mg, 0.079 mmol) were added to a 10 mL round bottom flask that was then evacuated and then filled back with argon twice. Dry DMF (5 mL) was added and the solution degassed with argon for 10 minutes. Triethylamine (0.24 mL, 1.7 mmol) and trimethylsilylacetylene (0.24 mL, 1.7 mmol) were added and the resulting brown solution was degassed with argon for a further minute. The reaction flask was sealed and heated at 80° C. until full consumption of the starting material (4 hours; monitored by LCMS). The solution was diluted with ethyl acetate (50 mL) and washed with brine (3×15 mL). The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give a material that was purified by flash chromatography (2× Biotage SP4, 12 g cartridge, CH2Cl2 3 CV, gradient 0-10% MeOH in CH2Cl2 15 CV, hold for 5 CV) and (Biotage SP4, 12 g cartridge, gradient 50-100% EtOAc in hexanes 10 CV, hold for 15 CV) to give 10a-(4-methoxyphenyl)-8-[(trimethylsilyl)ethynyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a yellow solid (84 mg, yield 62%). ESI-MI m/z [M+H]+ 380.0.

reactant | 8-bromo-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.33 mmol, 120 mg | BrC1=CC=C2N1CC1(N(C2=O)CCN1)C1=CC=C(C=C1)OC | C16H16BrN3O2
reactant | Triethylamine | 1.7 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 1.7 mmol, 0.24 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)2Cl2 | 0.033 mmol, 23 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.079 mmol, 15 mg | [Cu]I
product | 10a-(4-methoxyphenyl)-8-[(trimethylsilyl)ethynyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 84 mg, yield 62% | COC1=CC=C(C=C1)C12N(C(C=3N(C1)C(=CC3)C#C[Si](C)(C)C)=O)CCN2 | C21H25N3O2Si
